US04036979
In the manner described in Example 6, N-methylhydroxylamine hydrochloride and 4,5,6,7-tetrahydrobenzo[b]thien-4-yl isocyanate are allowed to react to afford 1-hydroxy-1-methyl-3-(4,5,6,7-tetrahydrobenzo[b]thien-4-yl)urea, which is recrystallized from acetone-hexane-ether to give crystals, with melting point 98° C. to 102° C.

reactant | N-methylhydroxylamine hydrochloride | Cl.CNO
reactant | 4,5,6,7-tetrahydrobenzo[b]thien-4-yl isocyanate | S1C2=C(C=C1)C(CCC2)N=C=O | C9H9NOS
product | 1-hydroxy-1-methyl-3-(4,5,6,7-tetrahydrobenzo[b]thien-4-yl)urea | ON(C(=O)NC1CCCC=2SC=CC21)C | C10H14N2O2S
